US07973078B2
2.59 g of 3-{[bis(tert-butoxycarbonyl)amino]methyl}-4-fluorobenzoic acid was dissolved in 10.0 mL of ethyl acetate, and 10.0 mL of a 4 M hydrogen chloride/ethyl acetate solution was added thereto, followed by stirring at room temperature for 4 hours. The reaction liquid was concentrated under reduced pressure, and the obtained residue was crystallized by addition of ethyl acetate and hexane to obtain 2.59 g of ethyl 3-(aminomethyl)-4-fluorobenzoate hydrochloride.

reactant | 3-{[bis(tert-butoxycarbonyl)amino]methyl}-4-fluorobenzoic acid | 2.59 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C(=O)O)C=CC1F | C18H24FNO6
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(aminomethyl)-4-fluorobenzoate hydrochloride | 2.59 g | Cl.NCC=1C=C(C(=O)OCC)C=CC1F | InChI=1S/C10H12FNO2.ClH/c1-2-14-10(13)7-3-4-9(11)8(5-7)6-12;/h3-5H,2,6,12H2,1H3;1H
